US08314109B2
To a solution of 624 mg of caesium carbonate, 90 mg of 2-bromo-6-methoxypyridine and 17.5 mg of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium in 10 mL of dioxane and 4 mL of water are added 160 mg of 2-phenylcarbamoylimidazo[1,2-a]pyridine-6-boronic acid. The mixture is refluxed for one hour, and then cooled and concentrated to dryness under reduced pressure. The residue is taken up in 150 mL of dichloromethane and washed with 100 mL of water. The organic phase is dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure on silica and then chromatographed on a silica cartridge, eluting with a gradient of from 0 to 35% ethyl acetate in cyclohexane. The fractions containing the pure expected product are combined and concentrated to dryness under reduced pressure to give 36 mg of 6-(6-methoxypyrid-2-yl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in the form of an off-white solid.

reactant | caesium carbonate | 624 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-6-methoxypyridine | 90 mg | BrC1=NC(=CC=C1)OC | C6H6BrNO
reactant | 2-phenylcarbamoylimidazo[1,2-a]pyridine-6-boronic acid | 160 mg | C1(=CC=CC=C1)NC(=O)C=1N=C2N(C=C(C=C2)B(O)O)C1 | C14H12BN3O3
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 17.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(6-methoxypyrid-2-yl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 36 mg | COC1=CC=CC(=N1)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C20H16N4O2
